US04101667
2-trifluoromethyl-10,11-dihydrodibenzo[b,f]thiepin-9-carboxylic acid:
To 1g of potassium hydroxide dissolved in 1ml of water and 4ml of ethanol was added 106mg of 2-trifluoromethyl-9-cyano-10,11-dihydrodibenzo[b,f]thiepin and the resulting mixture was refluxed for 24 hrs. After cooling, to this was added 4% sodium hydroxide solution and ether. After shaking, the aqueous layer was separated, acidified by adding conc. hydrochloric acid and extracted with chloroform. Extract was washed with water and dried over anhydrous sodium sulfate. The solvent was evaporated to obtain 87 mg (77.3% of yield) of the desired product as colorless powder. This was recrystallized from the mixed solvent of benzene and n-hexane to afford 2-trifluoromethyl-10,11-dihydrodibenzo[b,f]thiepin-9-carboxylic acid having a melting point of 178.5° to 179.5° C as colorless crystals.

reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol | 4ml | C(C)O | C2H6O
reactant | 2-trifluoromethyl-9-cyano-10,11-dihydrodibenzo[b,f]thiepin | 106mg | FC(C1=CC2=C(SC3=C(CC2)C(=CC=C3)C#N)C=C1)(F)F | C16H10F3NS
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 1ml | O | H2O
solvent | ether | CCOCC | C4H10O
product | 2-trifluoromethyl-10,11-dihydrodibenzo[b,f]thiepin-9-carboxylic acid | FC(C1=CC2=C(SC3=C(CC2)C(=CC=C3)C(=O)O)C=C1)(F)F | C16H11F3O2S
